US07994317B2
e) Preparation of cis-4-{methyl[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid
A mixture of 2,4,6-trichloro-1,3,5-triazine (0.5 g, 2.0 mmol) in a solution of CH3CN:H2O (1:1, 20 mL) was cooled to 0° C. A 2 M solution of methylamine in THF (1 mL, 2.0 mmol) was added. The reaction mixture was adjusted to a pH of about 8-9 using 1 N NaOH. The pH was maintained at about 9-10 for 0.5 hour. LCMS analysis showed the complete consumption of the 2,4,6-trichloro-1,3,5-triazine. To this mixture was added cis-4-(methylamino)cyclohexanecarboxylic acid (0.32 g, 2.0 mmol). The reaction mixture was stirred at room temperature while the pH was maintained between 8 and 9. Next, 1-methylpiperazine (2 g, 20 mmol) was added and the mixture was heated to 50° C. overnight. The solvent was removed and the crude product was purified by HPLC to afford 0.32 g (0.09 mmol, 44% yield) of the desired product. MS (ES+): m/e 364.2 [M+H]+.

reactant | 2,4,6-trichloro-1,3,5-triazine | 2.0 mmol, 0.5 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | methylamine | CN | CH5N
reactant | THF | 2.0 mmol, 1 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | cis-4-(methylamino)cyclohexanecarboxylic acid | 2.0 mmol, 0.32 g | CN[C@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | 1-methylpiperazine | 20 mmol, 2 g | CN1CCNCC1 | C5H12N2
solvent | CH3CN H2O | 20 mL | CC#N.O
product | cis-4-{methyl[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | 0.09 mmol, 0.32 g, 44% yield | CN([C@H]1CC[C@H](CC1)C(=O)O)C1=NC(=NC(=N1)NC)N1CCN(CC1)C | C17H29N7O2
